reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[O+:7]=[C-:6][H:10])\[H:8]>>[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6](=[O:7])[H:10])\[H:8],19.386664917225517
[C:1]([C:2](=[O:3])[C:4]#[C:5][H:9])([H:6])([H:7])[H:8]>>[C:1]1([H:7])([H:8])[C:2](=[C:4]=[C:5]([H:6])[H:9])[O:3]1,98.2002485726063
[C:1]([C:2](=[O:3])[C:4](=[O:5])[H:12])([C:6](=[O:7])[H:13])([H:9])[H:10].[H:8][H:11]>>[C:1]([C:2]([O:3][H:11])([C:4](=[O:5])[H:12])[C:6](=[O:7])[H:13])([H:8])([H:9])[H:10],81.64235221524079
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([O:5][H:10])[N:6]([H:14])[H:15])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([C:4](=[O:5])[N:6]([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],48.07771236800969
[N:1]([C:2](=[O:3])[C:4]([C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9]>>[C:4](=[C:5]([C:6]([O:7][H:16])([H:14])[H:15])[H:13])([H:10])[H:11].[N:1]([C:2][O:3][H:12])([H:8])[H:9],78.9048674558581
[C:1]([C:2](=[C:5]=[O:6])[H:10])([H:7])([H:8])[H:9].[C:3](=[O:4])([H:11])[H:12]>>[C:1]([C:2]([C:3](=[O:4])[H:11])([C:5](=[O:6])[H:12])[H:10])([H:7])([H:8])[H:9],44.5759055804506
[C:1]1([H:5])([H:6])[C:2]([H:7])([H:8])[O:3][C:4]1([H:9])[H:10]>>[C:1]([C:2]([O+:3]=[C-:4][H:10])([H:7])[H:8])([H:5])([H:6])[H:9],84.54526775811671
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4](=[O:5])[C:6]([H:14])([H:15])[H:16])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([O+:5]=[C-:4][C:6]([H:14])([H:15])[H:16])[H:10])([H:7])([H:8])[H:9],109.93181262521601
[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5]#[N:6])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1]1([H:7])([H:9])[C@:2]([O:3][H:11])([H:10])[C:4]([H:12])([H:13])[C:5][N:6]1[H:8],97.1219566296545
[C:1]([C@@:2]([C:3](=[O:4])[H:11])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9]>>[C:1](/[C:2](=[C:3](/[O:4][C:5]#[N:6])[H:11])[H:10])([H:7])([H:8])[H:9],86.9189659578924
[C:1]([O:2][C:3](=[O:4])[C:5]([N:6]([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O+:2]=[C-:3][O:4][H:12])([H:7])([H:8])[H:9].[C:5](=[N:6][H:13])([H:10])[H:11],69.0879668948285
[O:1]([C@:2]1([C:3]([H:9])([H:10])[H:12])[C@@:6]2([H:14])[C:5]([H:13])=[C:4]([H:11])[C@@:7]12[H:15])[H:8]>>[O:1]([C@@:2]12[C:3]([H:9])([H:10])[C@@:4]3([H:11])[C:5]([H:12])([H:13])[C@:6]1([H:14])[C@@:7]23[H:15])[H:8],97.75653524221379
[C:2]1([H:7])([H:8])[C:3]([H:9])([H:10])[C:4]([H:11])([H:12])[O:5]1.[O:1]([H:6])[H:13]>>[O:1]([C:2]([C:3]([C:4]([O:5][H:13])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8])[H:6],64.510177930235
[C:1]([C:2]([N:3]([C:4](=[O:5])[H:12])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([O+:5]=[C:4]([N:3]([C-:2]([H:9])[H:10])[H:11])[H:12])([H:6])([H:7])[H:8],104.425340474399
[C:1]([C:2]([C:3](=[O:4])[C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:4][C:3](=[C:2]([H:10])[H:11])[C:5](=[O:6])[H:12])([H:7])([H:8])[H:9],98.03145251286942
[O:1]([C:2]([C@:5]1([H:11])[O+:4]=[C-:3][C@@:6]1([O:7][H:13])[H:12])([H:9])[H:10])[H:8]>>[O:1]([C@@:2]1([H:9])[C@:3]2([H:10])[O:4][C@@:5]1([H:11])[C@:6]2([O:7][H:13])[H:12])[H:8],41.67929912144089
[C:1]([O:2][C:3]([C@@:4]([O:5][H:14])([C:6]([O:7][H:17])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([C:4](=[O:5])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[C:6](=[O:7])([H:15])[H:16].[H:14][H:17],96.5406539336896
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([N+:4]([C-:5]([H:15])[H:16])([C:6](=[O:7])[H:18])[H:17])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([N:4]([C:5]([H:15])([H:16])[H:17])[C:6](=[O:7])[H:18])[H:11])([H:8])([H:9])[H:10],13.959609629534071
[C:1]([C:2]([O:3][C:4]([C:5]([O:6][C:7]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][H:17])([H:11])[H:12])([H:8])([H:9])[H:10].[C:4]1([H:13])([H:14])[C:5]([H:15])([H:16])[O:6][C:7]1([H:18])[H:19],101.133519679237
[C:1]([O:2][C:3]([C:4]#[N:5])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]1([H:6])([H:7])[O:2][C:3]([H:9])([H:10])[C:4][N:5]1[H:8],84.00292760195009
[O:1]([C:2]([C:3]([C:4]#[N:5])([H:9])[H:10])([H:7])[H:8])[H:6]>>[C:3]([C:4]#[N:5])([H:7])([H:9])[H:10].[O:1]([C:2][H:8])[H:6],81.34280990183079
[C:1]([C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([C:6]#[N:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C@@:3]1([H:13])[C:6]([H:17])=[N:7]1)([H:11])[H:12])([H:8])([H:9])[H:10].[C:4](=[C:5]([H:16])[H:18])([H:14])[H:15],106.959333676621
[O:1]([C:2]([C:3]([O:4][C:5]([C:6]#[C:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C:3]([O:4][C:5]([C:7](=[C:6])[H:15])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])[H:8],58.16865233157071
[C:1]([N+:2]#[C-:3])([H:8])([H:9])[H:10].[O:4]([C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])[H:11]>>[C:1](/[N:2]=[C:3](/[O:4][C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])[H:11])([H:8])([H:9])[H:10],49.003874515552404
[N:1]([C:2]([C:3]#[N:4])([C:5]#[N:6])[H:9])([H:7])[H:8]>>[C:5]=[N:6][H:7].[N:1](=[C:2](\[C:3]#[N:4])[H:9])\[H:8],59.6430700643812
